US06180622B2
Acetic acid (0.60 ml) and 3.5 ml of a 1 M tetra-n-butylammonium fluoride/THF solution are added to a solution of 491 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidin-3-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-1-methylcarbapen-2-em-3-carboxylate (a diastereomer mixture) in 10.5 ml of anhydrous THF, and the mixture is stirred in an argon atmosphere at room temperature for 16 hr. The reaction solution is diluted with 100 ml of ethyl acetate, and the diluted solution is successively washed with a 5% aqueous sodium hydrogencarbonate solution and saturated saline and dried over anhydrous magnesium sulfate, followed by filtration and the removal of the solvent by evaporation to give a dark yellow oil. This oil is purified by column chromatography on silica gel (ethyl acetate:methanol=95:5) to give 353 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (a diastereomer mixture) as a light yellow amorphous material.

reactant | Acetic acid | 0.60 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidin-3-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-1-methylcarbapen-2-em-3-carboxylate | 491 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C=1N=CN2C1SC=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C33H46N4O7S2Si
solvent | THF | 10.5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 353 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C=1N=CN2C1SC=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
